US08044213B2
The crude 4-{3-[5-carbamoyl-4-(3-chloro-phenyl)-thiazole-2-ylamino]-4-nitro-phenoxymethyl}-piperidine-1-carboxylic acid tert-butyl ester (VII.23) was dissolved in 4 mL of acetic acid and 0.14 mL (0.84 mmole) of triethyl orthoformate. The mixture was heated at 70 degrees for 2 hours and then concentrated under reduced pressure. The residue was diluted with ethyl acetate and saturated aqueous sodium carbonate. The organic phase was washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with ethyl acetate-dichloromethane (gradient 50:50-100:0) to give 0.13 g of 4-{3-[5-carbamoyl-4-(3-chloro-phenyl)-thiazole-2-yl]-3H-benzoimidazol-5-yloxymethyl}-piperidine-1-carboxylic acid tert-butyl ester (I.23a).

reactant | 4-{3-[5-carbamoyl-4-(3-chloro-phenyl)-thiazole-2-ylamino]-4-nitro-phenoxymethyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=CC(=C(C=C1)[N+](=O)[O-])NC=1SC(=C(N1)C1=CC(=CC=C1)Cl)C(N)=O | C27H30ClN5O6S
reactant | triethyl orthoformate | 0.84 mmole, 0.14 mL | C(OCC)(OCC)OCC | C7H16O3
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | 4-{3-[5-carbamoyl-4-(3-chloro-phenyl)-thiazole-2-yl]-3H-benzoimidazol-5-yloxymethyl}-piperidine-1-carboxylic acid tert-butyl ester | 0.13 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=CC2=C(N=CN2C=2SC(=C(N2)C2=CC(=CC=C2)Cl)C(N)=O)C=C1 | C28H30ClN5O4S
